US04748163
2-Amino-6-hydroxymethylbenzothiazole (1a)
50 g (0.225 mol) of ethyl 2-aminobenzothiazole-6-carboxylate are suspended in 1,000 ml of THF, cooled to -70° C., and 562.5 ml (0.675 mol) of diisobutylaluminum hydride (DIBAL, 20% strength in toluene, 1.2 molar) are slowly added dropwise under nitrogen. The reaction solution is stirred at -70° C. to -40° C. overnight and then without cooling for a further 3 hours. Then it is cooled to -70° C., 61.5 ml of water are added dropwise (vigorous exothermic reaction), and the mixture is allowed to reach room temperature. 305 ml of saturated sodium chloride solution are added, and the mixture is stirred at 20° C. for 1 hour. Precipitated aluminum hydroxide is filtered off with suction and washed with THF, and the filtrate is evaporated to dryness (36 g). The residue is dissolved in boiling ethanol, some insolubles are filtered off, and the filtrate is evaporated to dryness.

reactant | ethyl 2-aminobenzothiazole-6-carboxylate | 0.225 mol, 50 g | NC=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O2S
reactant | diisobutylaluminum hydride | 0.675 mol, 1.2 molar, 562.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 61.5 ml | O | H2O
reactant | sodium chloride | 305 ml | [Cl-].[Na+]
solvent | THF | 1,000 ml | C1CCOC1 | C4H8O
product | 2-Amino-6-hydroxymethylbenzothiazole | NC=1SC2=C(N1)C=CC(=C2)CO | C8H8N2OS
